US06800629B2
In 10 mL of methanol was dissolved 2.0 g of methyl 3,6-dichloro-2-pyrazinecarboxylate. Then, 10.2 mL of 1 mol/L aqueous solution of sodium hydroxide was added at an ice-cooled temperature and stirred at room temperature for one hour. The reaction mixture was poured into a mixture of 200 mL of ethyl acetate and 200 mL of water, and the organic layer was separated. The organic layer was washed successively with 50 mL of water and 50 mL of saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was washed with hexane to obtain 1.6 g of 3,6-dichloro-2-pyrazinecarboxylic acid as a white-colored solid product.

reactant | methyl 3,6-dichloro-2-pyrazinecarboxylate | 2.0 g | ClC=1C(=NC(=CN1)Cl)C(=O)OC | C6H4Cl2N2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 200 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 3,6-dichloro-2-pyrazinecarboxylic acid | 1.6 g | ClC=1C(=NC(=CN1)Cl)C(=O)O | C5H2Cl2N2O2
